US07041667B1
3-[(t-Butoxycarbonyl)amino]-3-phenylpropanoic acid
A solution of di-t-butyldicarbonate (17.1 g, 78.7 mmol) in tetrahydrofuran (60 ml) was added to a solution of DL-3-amino-3-phenylpropionic acid (10.0 g, 60.5 mmol) in aqueous 2N sodium hydroxide solution (145 ml) and the reaction stirred at room temperature for 18 hours. The reaction was diluted with water, washed with ethyl acetate (2×) and then acidified to pH 3 using concentrated hydrochloric acid. This acidic solution was extracted with ethyl acetate (2×), the combined organic extracts dried (MgSO4), filtered and evaporated under reduced pressure to afford the title compound as an off-white solid, 15.3 g.

reactant | di-t-butyldicarbonate | 78.7 mmol, 17.1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DL-3-amino-3-phenylpropionic acid | 60.5 mmol, 10.0 g | C1=CC=C(C=C1)C(CC(=O)O)N | C9H11NO2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 2N, 145 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 3-[(t-Butoxycarbonyl)amino]-3-phenylpropanoic acid | C(C)(C)(C)OC(=O)NC(CC(=O)O)C1=CC=CC=C1 | C14H19NO4
